US09193731B2
6-{4-[(3-Amino-propylamino)-methyl]-phenyl}-2-(4-bromo-phenyl)-1H-imidazo[1,2-a]pyrimidin-7-one hydrochloride salt (hydrochloride salt of compound 617):
{4-[2-(4-Bromo-phenyl)-7-oxo-1,7-dihydro-imidazo[1,2-a]pyrimidin-6-yl]-benzyl}-(3-tert-butoxycarbonylamino-propyl)-carbamic acid tert-butyl ester (100 mg, 0.153 mmol) was dissolved in CH2Cl2 (5 mL), TFA (1 mL) was added and stirred at room temperature for 2 h. The reaction mixture was concentrated and 3 mL of 0.6 N HCl and 2 mL of acetonitrile were added and stirred for 0.5 h, concentrated to a ca. 3 mL and lyophilized to give the title compound (80 mg, 100%). 1NMR (300 MHz, CD3OD): δ 8.99 (s, 1H), 8.24 (s, 1H), 7.75 (m, 8H), 4.30 (s, 2H), 3.32 (t, J=8.1 Hz, 2H), 3.09 (t, J=7.5 Hz, 2H), 2.17 (m, 2H). LCMS (EI) m/z: 454 (M+H+).

reactant | {4-[2-(4-Bromo-phenyl)-7-oxo-1,7-dihydro-imidazo[1,2-a]pyrimidin-6-yl]-benzyl}-(3-tert-butoxycarbonylamino-propyl)-carbamic acid tert-butyl ester | 0.153 mmol, 100 mg | C(C)(C)(C)OC(N(CCCNC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C=1C(N=C2N(C1)C=C(N2)C2=CC=C(C=C2)Br)=O)=O | C32H38BrN5O5
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 6-{4-[(3-Amino-propylamino)-methyl]-phenyl}-2-(4-bromo-phenyl)-1H-imidazo[1,2-a]pyrimidin-7-one hydrochloride salt | 80 mg, 100% | Cl.NCCCNCC1=CC=C(C=C1)C=1C(N=C2N(C1)C=C(N2)C2=CC=C(C=C2)Br)=O | InChI=1S/C22H22BrN5O.ClH/c23-18-8-6-17(7-9-18)20-14-28-13-19(21(29)27-22(28)26-20)16-4-2-15(3-5-16)12-25-11-1-10-24;/h2-9,13-14,25H,1,10-12,24H2,(H,26,27,29);1H
